US07842696B2
4-Formyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide (40 mg, 0.90 mmol) was dissolved in an acetone-water mixture (1:1, 0.9 mL) and cooled to 0° C. A mixture of sulphamic acid (26 mg, 0.27 mmol) and sodium chlorite (32 mg, 0.36 mmol) dissolved in minimum amount of water was then added. The resulting mixture was allowed to warm to room temperature and stirred for 30 minutes. 5 mL of water was then added, and the product was extracted with ethyl acetate. The organic layer was washed with brine solution, dried over sodium sulphate and concentrated to afford 25 mg (61% yield) of N-{2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamic acid. LCMS Purity: 95.8%, 1H NMR (DMSO-d6): δ 13 (bs, 1H). 8.8 (m, 1H), 8.1-7.9 (m, 4H), 7.9-7.8 (m, 1H), 7.8-7.7 (m, 1H), 7.7 (m, 1H), 7.6-7.5 (m, 1H), 4.3-4.1 (m, 4H), 3.6-3.4 (m, 8H).

reactant | 4-Formyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 0.90 mmol, 40 mg | C(=O)C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C22H20F3N3O4
reactant | sulphamic acid | 0.27 mmol, 26 mg | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 0.36 mmol, 32 mg | Cl(=O)[O-].[Na+]
solvent | acetone water | 0.9 mL | CC(=O)C.O
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
product | N-{2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamic acid | 25 mg, 61% yield | O=C(CNC(C1=CC=C(C(=O)O)C=C1)=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H20F3N3O5
